US08735586B2
1-Phenyl-2-tridecyl-1H-benzimidazole
The title compound was prepared with the analogous procedure described in example 1 using 1-Iodo-2-nitrobenzene (125 mg, 0.5 mmol) and myristanilide (182 mg, 0.6 mmol) as starting materials to yield the title compound as colorless oil (160 mg, 85%). 1H NMR (DMSO) δ 0.74 (t, J=6.9 Hz, 3 H), 1.14-1.28 (m, 20 H), 1.68 (p, J=7.6 Hz, 2 H), 2.83 (t, J=7.6 Hz, 2 H), 7.14 (d, J=8.1 Hz, 1 H), 7.29 (dd, J=8.1, 7.7 Hz, 1 H), 7.47 (dd, J=8.1, 7.7 Hz, 1 H), 7.56-7.68 (m, 5 H), 7.74 (d, J=7.7 Hz, 1 H); 13C NMR δ 13.9, 22.0, 26.3, 26.4, 28.3, 28.4, 28.7, 28.8, 28.9, 29.9, 31.2, 110.7, 116.9, 123.5, 123.7, 127.2, 129.6, 130.1, 134.2, 135.0, 137.6, 154.7. HRMS (FAB): cal. for C26H36N2 [M+H+]: 377.2957; found: 377.2953.

reactant | 1-Iodo-2-nitrobenzene | 0.5 mmol, 125 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | myristanilide | 0.6 mmol, 182 mg | C(CCCCCCCCCCCCC)(=O)NC1=CC=CC=C1 | C20H33NO
product | 1-Phenyl-2-tridecyl-1H-benzimidazole | 160 mg, 85% | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)CCCCCCCCCCCCC | C26H36N2
